US06130241
3-(2-Octyl)-3-azabicyclo[3.1.0]hexane-2,4-dione
Sodium hydride (0.11 g) was added to a solution of 3-azabicyclo[3.1.0]hexane-2,4-dione (0.3 g) and 2-bromooctane (0.52 g) in dimethylformamide (5 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 48 hours. The mixture was diluted with water (15 ml) and then extracted with toluene (20 ml). The organic extract was washed with water (15 ml), dried (MgSO4) and evaporated in vacuo. The residue was purified by Kugelrohr distillation (boiling point 130-140° C. @ 0.1 mmHg) to give the title compound as a colourless oil.

reactant | Sodium hydride | 0.11 g | [H-].[Na+]
reactant | 3-azabicyclo[3.1.0]hexane-2,4-dione | 0.3 g | C12C(NC(C2C1)=O)=O | C5H5NO2
reactant | 2-bromooctane | 0.52 g | BrC(C)CCCCCC | C8H17Br
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
product | 3-(2-Octyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | CC(CCCCCC)N1C(C2CC2C1=O)=O | C13H21NO2
